US08420711B2
Deionized water (100 mL) and diethyl ether (200 mL) were added to a single-neck 500 mL round-bottom flask fitted with a magnetic stirrer. The flask was cooled in an ice bath to 0° C. The flask was fitted with a dropping funnel and a mixture of (10 g, 0.045 mol) of 3-methacryloxypropyl dimethylchlorosilane and 50 mL of anhydrous THF was added to the flask. The reaction was stirred for one hour at 0° C. The organic layer was separated and dried over anhydrous sodium sulfate and filtered. The solvent was evaporated on a rotovap to give 3-methacryloxypropyl dimethylhydroxysilane in 9.0 g quantity, 99% yield as a clear, colorless oil.

reactant | water | 100 mL | O | H2O
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | 3-methacryloxypropyl dimethylchlorosilane | 0.045 mol, 10 g | C(C(=C)C)(=O)OCCC[Si](Cl)(C)C | C9H17ClO2Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-methacryloxypropyl dimethylhydroxysilane | 99% yield | C(C(=C)C)(=O)OCCC[Si](O)(C)C | C9H18O3Si
